US08648068B2
95. 3 4-{2-[1-(2-Dimethylamino-acetyl)-pyrrolidin-3-yloxy]-4-fluoro-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
Prepared analogously to example 1.4 from 4-{2-[1-(2-Dimethylamino-acetyl)-pyrrolidin-3-yloxy]-4-fluoro-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid and ammonia in methanol.

reactant | 4-{2-[1-(2-Dimethylamino-acetyl)-pyrrolidin-3-yloxy]-4-fluoro-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | CN(CC(=O)N1CC(CC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)C | C22H24FN5O4S
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 4-{2-[1-(2-Dimethylamino-acetyl)-pyrrolidin-3-yloxy]-4-fluoro-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | CN(CC(=O)N1CC(CC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)C | C22H25FN6O3S
